US09085534B2
Preparation 102A: 5-fluoro-6-methoxy-1,2,3,4-tetrahydronaphthalen-1-one
To a solution of 6-methoxy-1-tetralone (200 mg, 1.1 mmol) in ACN (20 mL) was added Selectfluor (603 mg, 1.7 mmol) at rt, and the reaction was stirred at 40° C. overnight. The reaction was filtered and concentrated. The residue was dissolved in EtOAc (40 mL), filtered, and concentrated. Purification by silica gel chromatography (PE/EtOAc/DCM=20:1:2) gave 90 mg (41%) of the title compound as a yellow solid. [M+H] Calc'd for C11H11FO2, 195; Found, 195.

reactant | 6-methoxy-1-tetralone | 1.1 mmol, 200 mg | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | Selectfluor | 1.7 mmol, 603 mg | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | ACN | 20 mL | C(C)#N | C2H3N
product | 5-fluoro-6-methoxy-1,2,3,4-tetrahydronaphthalen-1-one | 90 mg, 41% | FC1=C2CCCC(C2=CC=C1OC)=O | C11H11FO2
